US04636504
19.2 g (100 millimoles) of 3-(p-aminobenzoyl)-propionic acid were stirred with 24.8 g (195 millimoles) of 3-chloropropionyl chloride in 200 ml of absolute acetone for 10 hours at room temperature. The mixture was then evaporated down, the residue was stirred with 200 ml of water, and the product was filtered off under suction at 10° C., washed with cold acetone and dried at 100° C. under reduced pressure. 21 g (75%) of 3-[p-(3-chloropropionylamino)-benzoyl]-propionic acid were obtained as yellowish crystals of melting point 181°-182° C. (acetonitrile).

reactant | 3-(p-aminobenzoyl)-propionic acid | 100 millimoles, 19.2 g | NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C10H11NO3
reactant | 3-chloropropionyl chloride | 195 millimoles, 24.8 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-[p-(3-chloropropionylamino)-benzoyl]-propionic acid | 21 g, 75% | ClCCC(=O)NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C13H14ClNO4
